US07915424B2
3-Pyridin-3-ylethynyl-benzonitrile
Add triethylamine (5 mL) to a stirring mixture of 3-iodopyridine (1.03 g, 5.03 mmol), bis(triphenylphosphine)palladium (II) dichloride (176 mg, 0.252 mmol), copper (I) iodide (96 mg, 0.503 mmol), and 3-trimethylsilanylethynylbenzonitrile, (prepared essentially as described in PREPARATION 5), (1.0 g, 5.03 mmol) at −78° C. After about 3 min, add a 1 M solution of tetrabutylammonium fluoride in tetrahydrofuran (5.03 mL, 5.03 mmol) in one portion, warm to room temperature and stir overnight. Filter the reaction mixture through fluted filter paper and concentrate. Dissolve the residue in ethyl acetate, wash sequentially with a saturated solution of aqueous sodium bicarbonate, a saturated solution of aqueous sodium chloride, dry (sodium sulfate), filter, concentrate and purify (silica gel chromatography, eluting with 0:100 to 40:60 ethyl acetate:hexanes, followed by a second silica gel chromatography, eluting with 0:100 to 40:60 ethyl acetate:dichloromethane), to give the title product as a yellow solid (730 mg, 71%).

reactant | 3-iodopyridine | 5.03 mmol, 1.03 g | IC=1C=NC=CC1 | C5H4IN
reactant | 3-trimethylsilanylethynylbenzonitrile | C[Si](C)(C)C#CC=1C=C(C#N)C=CC1 | C12H13NSi
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | tetrahydrofuran | 5.03 mmol, 5.03 mL | O1CCCC1 | C4H8O
catalyst | bis(triphenylphosphine)palladium | 0.252 mmol, 176 mg | C1([P]([Pd][P](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)=CC=CC=C1
catalyst | copper (I) iodide | 0.503 mmol, 96 mg | [Cu]I
solvent | triethylamine | 5 mL | C(C)N(CC)CC | C6H15N
product | 3-Pyridin-3-ylethynyl-benzonitrile | 730 mg, 71% | N1=CC(=CC=C1)C#CC=1C=C(C#N)C=CC1 | C14H8N2
